US07625909B2
Step 1. Synthesis of 2-Amino-N-[2-(2,4-dichlorophenyl)ethyl]-4-nitrobenzamide
To a stirred solution of 4-nitro-isatoic anhydride (10.0 g, 0.048 mol) in CH2Cl2 (100 mL) was added 2,4-dichlorophenethylamine (10.08 g, 0.053 mol) followed by DMF (10 mL). The reaction mixture was stirred at room temperature for 30 min. The resulting mixture was then dissolved in 1.0 L CH2Cl2 and washed with 1.0 M NaOH. The combined organic layers were concentrated under reduced pressure and purified by silica gel flash chromatography (0-100% EtOAc/hexanes eluent) to give the product (16.5 g, 97% yield) as a yellow solid. HPLC retention time: 3.04 min; Method A; LRMS (ESI) m/z 354 (M+1).

reactant | 4-nitro-isatoic anhydride | 0.048 mol, 10.0 g | [N+](=O)([O-])C=1C=C2C(C(=O)OC(N2)=O)=CC1 | C8H4N2O5
reactant | 2,4-dichlorophenethylamine | 0.053 mol, 10.08 g | ClC1=C(CCN)C=CC(=C1)Cl | C8H9Cl2N
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.0 L | C(Cl)Cl | CH2Cl2
product | 2-Amino-N-[2-(2,4-dichlorophenyl)ethyl]-4-nitrobenzamide | 16.5 g, 97% yield | NC1=C(C(=O)NCCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)[N+](=O)[O-] | C15H13Cl2N3O3
